US07872021B2
3-(4-cyanophenoxy)propanoic acid, methyl ester
A solution of 3.80 g (19.9 mmol) of 3-(4-cyanophenoxy)propanoic acid in 10 ml of methanol is cooled by an ice bath. 3 ml (40 mmol) of thionyl chloride are added drop by drop and then the reaction medium is agitated with solvent reflux for 2 hours. The reaction mixture is then concentrated under reduced pressure and the evaporation residue is purified by silica column chromatography eluting with the help of a dichloromethane/methanol mixture (99/1; v/v). The expected product is obtained in the form of a white solid with a yield of 79%.

reactant | 3-(4-cyanophenoxy)propanoic acid | 19.9 mmol, 3.80 g | C(#N)C1=CC=C(OCCC(=O)O)C=C1 | C10H9NO3
reactant | thionyl chloride | 40 mmol, 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 10 ml | CO | CH4O
product | 3-(4-cyanophenoxy)propanoic acid, methyl ester | yield of 79% | C(#N)C1=CC=C(OCCC(=O)OC)C=C1 | C11H11NO3
